US04058550
A solution of 4-(n-octylamino)benzoic acid (4.97 g.) in 25 ml. of hexamethylphosphoramide is treated with sodium hydride and then 1-chloro-2,3-propanediol in the manner described in Example 2 to produce white crystals of 2,3-dihydroxypropyl 4-(n-octylamino)benzoate.

reactant | 4-(n-octylamino)benzoic acid | 4.97 g | C(CCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C15H23NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-2,3-propanediol | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dihydroxypropyl 4-(n-octylamino)benzoate | C(CCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C18H29NO4
